US04509972
To a suspension of 0.88 g (0.005 mol) of 2-amino-4-methoxypteridine in 40 ml of absolute methylene chloride were added with stirring to 1.35 g (0.053 mol) of 2,2,2-trichloroethoxysulfonyl isocyanate. After about 10 minutes, a clear solution had formed and it was heated to reflux. After 10 minutes, the mixture was evaporated to dryness and the residue was treated with diisopropyl ether and a little acetone. The mixture was vacuum filtered and the product was dried to obtain 2.05 g (95% of theory) of N-(4-methoxypteridin-2-yl)-N'-(2,2,2-trichloroethoxysulfonyl)-urea in the form of yellow crystals melting at 93° C. (decomp.).

reactant | 2-amino-4-methoxypteridine | 0.005 mol, 0.88 g | NC1=NC2=NC=CN=C2C(=N1)OC | C7H7N5O
reactant | 2,2,2-trichloroethoxysulfonyl isocyanate | 0.053 mol, 1.35 g | ClC(COS(=O)(=O)N=C=O)(Cl)Cl | C3H2Cl3NO4S
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N-(4-methoxypteridin-2-yl)-N'-(2,2,2-trichloroethoxysulfonyl)-urea | 2.05 g, 95% | COC1=NC(=NC2=NC=CN=C12)NC(=O)NS(=O)(=O)OCC(Cl)(Cl)Cl | C10H9Cl3N6O5S
